US04204068
A mixture of 2-(dibutoxymethyl)glycine ethyl ester (2.0 g.) with ethyl 7-bromoheptanoate (1.82 g.) was heated under nitrogen in a bath at 100° C. for 3 hr. to give crude ethyl 7-((2,2-dibutoxy-1-ethoxycarbonylethyl)amino)-heptanoate hydrobromide. A stirred solution of 3.28 g. of this hydrobromide in ethanol (13 ml) was cooled in ice-water and treated with a solution of potassium cyanate (1.34 g) in water (4 ml), followed by 2N aqueous hydrochloric acid (3.63 ml); the cooling bath was removed and stirring was continued at room temperature for 22 hr. The ethanol was evaporated in vacuo, the residue was shaken with water and ether, and the ethereal solution was separated, washed with water and dried over magnesium sulphate (MgSO4); removal of the ether left an oil which was heated under nitrogen at 100° C. for 3 hr., to give 5-dibutoxymethyl-1-(6-ethoxycarbonylhexyl)hydantoin (2.94 g.). This was stirred in ether (6 ml) with water (48 ml) and N aqueous sodium hydroxide (24.9 ml) at room temperature for 11/2 hr. and, after the addition of more ether (50 ml), the aqueous phase was separated, cooled (ice-H2O), stirred with fresh ether and acidified to Congo Red with N aqueous hydrochloric acid. The ethereal solution of carboxylic acid was thrice washed with water, dried (MgSO4), and evaporated, to leave 1-(6-carboxyhexyl)-5-dibutoxymethylhydantoin (2.15 g.) as a gum. When 1.89 g. of the latter were cooled in ice-water and stirred with concentrated aqueous hydrochloric acid (8.5 ml), the resulting solution gave place spontaneously to a suspension of colourless crystals. The suspension was set aside at room temperature for 11/2 hr., diluted with water (10 ml.) and set aside 15 min.; the crystals were then collected, washed with water, dried in vacuo, suspended in ether (3 ml), and collected again, to give 1-(6-carboxyhexyl)hydantoin-5-carboxaldehyde (0.74 g.), m.p. 223.5°-225° C. (Found: C. 51.86- H, 6.66; N, 10.62. C11H16N2O5 required C, 51.56; H, 6.29; N, 10.93%). In dimethyl sulphoxide-d6, this compound exists predominantly as the masked aldehyde, 1-(6-carboxyhexyl)-5-hydroxymethylenehydantoin.

reactant | 2-(dibutoxymethyl)glycine ethyl ester | 2.0 g | C(C)OC(C(N)C(OCCCC)OCCCC)=O | C13H27NO4
reactant | ethyl 7-bromoheptanoate | 1.82 g | BrCCCCCCC(=O)OCC | C9H17BrO2
product | ethyl 7-((2,2-dibutoxy-1-ethoxycarbonylethyl)amino)-heptanoate hydrobromide | Br.C(CCC)OC(C(C(=O)OCC)NCCCCCCC(=O)OCC)OCCCC | InChI=1S/C22H43NO6.BrH/c1-5-9-17-28-22(29-18-10-6-2)20(21(25)27-8-4)23-16-14-12-11-13-15-19(24)26-7-3;/h20,22-23H,5-18H2,1-4H3;1H
